US07807709B2
(3S*,4S*)-4-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-3-carboxylic acid methylamide
The title compound is prepared analogously as described for the title compound Example 1, starting from (3S*,4R*)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester and methylamine. MS (LC-MS): 422.1 [MH]+; tR (HPLC, nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, flow: 1.5 ml/min): 3.83 min.

reactant | (3S*,4R*)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(=O)O | C26H40N2O8
reactant | methylamine | CN | CH5N
reactant | CH3CN H2O | CC#N.O
solvent | CH3CN | CC#N | C2H3N
product | (3S*,4S*)-4-({Isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)[C@@H]1CNC[C@H]1CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C | C22H35N3O5
